US07276516B2
Add 10 ml dry DMF to a flask under N2 containing 4-(3-Phenyl-indole-1-sulfonyl)-benzoic acid (500 mg, 1.33 mmol, 1.0 eq), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (279 mg, 1.46 mmol, 1.1 eq), Dimethyl-pyridin-4-yl-amine (16 mg, 0.132 mmol, 0.1 eq), and C-Pyrazin-2-yl-methylamine (217 mg, 1.99 mmol, 1.5 eq). Stir for 18 hours at room temperature. Remove solvent on rotovap and purify by silica gel chromatography to give 4-(3-Phenyl-indole-1-sulfonyl)-N-pyrazin-2-ylmethyl-benzamide (127 mg, 20% yield). Mass Spectrum (m/e): 468.95 (MH+).

reactant | 4-(3-Phenyl-indole-1-sulfonyl)-benzoic acid | 1.33 mmol, 500 mg, 1.0 eq | C1(=CC=CC=C1)C1=CN(C2=CC=CC=C12)S(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C21H15NO4S
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.46 mmol, 279 mg, 1.1 eq | Cl.CN(CCCN=C=NCC)C
reactant | C-Pyrazin-2-yl-methylamine | 1.99 mmol, 217 mg, 1.5 eq | N1=C(C=NC=C1)CN | C5H7N3
catalyst | Dimethyl-pyridin-4-yl-amine | 0.132 mmol, 16 mg, 0.1 eq | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DMF | 10 ml | CN(C)C=O | C3H7NO
product | 4-(3-Phenyl-indole-1-sulfonyl)-N-pyrazin-2-ylmethyl-benzamide | 127 mg, 20% yield | C1(=CC=CC=C1)C1=CN(C2=CC=CC=C12)S(=O)(=O)C1=CC=C(C(=O)NCC2=NC=CN=C2)C=C1 | C26H20N4O3S
